US05935960
Bis(2-cyanophenyl)disulfide (5.00 g, 18.6 mmol), anhydrous piperazine (8.02g, 93.2 mmol), and isopropanol (5 mL) were combined under nitrogen and heated to reflux (115° C.). The yellow solution was heated at reflux (110-115° C.) for 23 hours and then cooled to 95° C. Water (30 mL) was added and the resulting suspension was cooled to 25° C. and filtered. The filter cake was washed with 12 mL of water/isopropanol solution (2:1). Toluene (50 mL) was then added to the combined wash and filtrate. The toluene layer was separated and the aqueous layer extracted with additional toluene (25 mL). The combined toluene layers were washed with water (20 mL), treated with activated charcoal (DARCO KB-B®) (0.5 g), filtered, and then concentrated at reduced pressure (42° C. at 700 mm Hg) to 12 mL. Isopropanol (30 mL) was added to the concentrate and then the pH was adjusted to 4.4 with concentrated hydrochloric acid. The resulting slurry was cooled to 0-5° C., granulated for 1 hour, and then filtered. The product cake was washed with cold isopropanol (10 mL) and dried in vacuo at 42° C. to give 3.22g (34% overall yield) of 3-(1-piperazinyl)-1,2-benzisothiazole. The product was a single spot by thin-layer chromatography.

reactant | Bis(2-cyanophenyl)disulfide | 18.6 mmol, 5.00 g | C(#N)C1=C(C=CC=C1)SSC1=C(C=CC=C1)C#N | C14H8N2S2
reactant | piperazine | 93.2 mmol, 8.02g | N1CCNCC1 | C4H10N2
reactant | isopropanol | 5 mL | C(C)(C)O | C3H8O
solvent | Water | 30 mL | O | H2O
product | 3-(1-piperazinyl)-1,2-benzisothiazole | 3.22g, 34% | N1(CCNCC1)C1=NSC2=C1C=CC=C2 | C11H13N3S
